US08580762B2
2,2,2-trifluoro-N-(4-(1-methylcyclobutyl)-2-nitrophenyl)acetamide
4-(1-Methylcyclobutyl)aniline (500 mg, 2.79 mmol) and Ammonium Nitrate (220 mg, 2.8 mmol) were treated with Trifluoroacetic anhydride (1.97 mL, 14.0 mmol) followed by Chloroform (10 mL, 120 mmol). The reaction mixture was allowed to stir at RT till for 5 h upon which all the solids had dissolved. The reaction mixture was poured into 50 ml H2O and extracted with three 25 ml portions of CH2Cl2. The combined organic phase was washed with 10 mL sat. NaHCO3, dried over Na2SO4, filtered and concentrated to an oil. The crude material was purified by flash chromatography (SiO2, eluting with 2.5-3.5% ethyl ether/hex.) to give the desired compound (800 mg).

reactant | 4-(1-Methylcyclobutyl)aniline | 2.79 mmol, 500 mg | CC1(CCC1)C1=CC=C(N)C=C1 | C11H15N
reactant | Ammonium Nitrate | 2.8 mmol, 220 mg | [N+](=O)([O-])[O-].[NH4+]
reactant | Trifluoroacetic anhydride | 14.0 mmol, 1.97 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | Chloroform | 120 mmol, 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 50 ml | O | H2O
product | 2,2,2-trifluoro-N-(4-(1-methylcyclobutyl)-2-nitrophenyl)acetamide | 800 mg | FC(C(=O)NC1=C(C=C(C=C1)C1(CCC1)C)[N+](=O)[O-])(F)F | C13H13F3N2O3
